US04652567
1,10a-Dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione
To a solution prepared from 11.68 g of (+)-N-benzylpyroglutamic acid (See E. Campaigne and D. P. Matthews, J. Het. Chem., 12, 391 (1975)), 100 ml of CH2Cl2 and a drop of dimethylformamide (DMF), 7.57 g of SOCl2 was added dropwise. The mixture was refluxed for five hours and allowed to stand overnight at ambient temperature. The reaction mixture was cooled in an ice-salt bath. Aluminum chloride (22.6 g) was added in portions with exclusion of moisture and vigorous stirring. The temperature did not exceed 10° C. during the addition. The mixture was stirred 1.5 hours and then ice was added gradually. The mixture was partitioned between water and CH2Cl2. The CH2Cl phase was washed with water, dried (Na2SO4), filtered and evaporated to give 10 g of a crude product. Recrystallization from toluene gave 7.45 g of crystals, m.p. 103°-105° C.

reactant | (+)-N-benzylpyroglutamic acid | 11.68 g | C(C1=CC=CC=C1)N1[C@@H](CCC1=O)C(=O)O | C12H13NO3
reactant | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
reactant | SOCl2 | 7.57 g | O=S(Cl)Cl | Cl2OS
reactant | Aluminum chloride | 22.6 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1,10a-Dihydropyrrolo[1,2-b]isoquinoline-3,10[2H,5H]-dione | 7.45 g | C1CC(N2CC=3C=CC=CC3C(C21)=O)=O | C12H11NO2
